US04618683
trans-2,3,3a,4,5,9b-Hexahydro-6,7-dimethoxy-1H-benz[e]isoindole hydrochloride
A solution of trans-3a,4,5,9b-tetrahydro-6,7-dimethoxy-1H-benz[e]isoindole-1-(2H)-one and 15 mL dry THF was stirred under N2 at 0° as BH3.THF (27.3 mL, 1M solution) was added slowly. The reaction mixture was stirred at reflux for 2.5 hours, was cooled to 0°, and 30 mL methanolic HCl was added cautiously. The solution was stirred at reflux for 1 hour, then was evaporated to dryness. Water was added and the aqueous layer was extracted with ether. After basifying (1N KOH), the aqueous layer was extracted with ether. The combined basic extracts were washed with water, saturated aqueous NaCl, dried (MgSO4), filtered, and evaporated to yield a clear oil which was converted to the HCl salt (ethereal HCl), evaporated, dried (in-vacuo) to obtain a white solid which was triturated with ether to yield 1.03 g cream colored solid, (63%); mp 196°-8°; M+ 233.

reactant | trans-3a,4,5,9b-tetrahydro-6,7-dimethoxy-1H-benz[e]isoindole-1-(2H)-one | COC1=C(C=CC=2[C@@H]3C(NC[C@H]3CCC21)=O)OC | C14H17NO3
reactant | BH3.THF | 1M, 27.3 mL | B.C1CCOC1
reactant | HCl | 30 mL | Cl | ClH
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | trans-2,3,3a,4,5,9b-Hexahydro-6,7-dimethoxy-1H-benz[e]isoindole hydrochloride | Cl.COC1=C(C=CC=2[C@@H]3CNC[C@H]3CCC21)OC | InChI=1S/C14H19NO2.ClH/c1-16-13-6-5-10-11(14(13)17-2)4-3-9-7-15-8-12(9)10;/h5-6,9,12,15H,3-4,7-8H2,1-2H3;1H/t9-,12-;/m1./s1
